* C:\Users\user\nlp_pcb\pcb_dataset\8025.asc
C1 OUT 0 22µ
V1 IN 0 30
R1 N003 0 34.8K
R2 N002 0 47.5K
XU1 N001 OUT N001 IN IN MP_01 NC_02 N003 NC_03 N002 0 LTM8025
Rload OUT 0 4
.tran 500u startup
.lib LTM8025.sub
.backanno
.end
